US05037834
2-(2-Chloro-4,5-difluorobenzoyl)-3-ethoxy-2-propenoic acid ethyl ester
2-Chloro-4,5-difluoro-α-oxo-benzenepropanoic acid ethyl ester (20 g, 76 mmol), triethylorthoformate (17.0 g, 115 mmol) and acetic anhydride (19.5 g, 191 mmol) were combined and heated to reflux for 3 hours. Excess solvent was removed in vacuo to provide the crude title product, which was used without purification.

reactant | 2-Chloro-4,5-difluoro-α-oxo-benzenepropanoic acid ethyl ester | 76 mmol, 20 g | C(C)OC(C(CC1=C(C=C(C(=C1)F)F)Cl)=O)=O | C11H9ClF2O3
reactant | triethylorthoformate | 115 mmol, 17.0 g | C(C)OC(OCC)OCC | C7H16O3
reactant | acetic anhydride | 191 mmol, 19.5 g | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(2-Chloro-4,5-difluorobenzoyl)-3-ethoxy-2-propenoic acid ethyl ester | C(C)OC(C(=COCC)C(C1=C(C=C(C(=C1)F)F)Cl)=O)=O | C14H13ClF2O4
